*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.1
* < ILD_dielectric_const = 3.8
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_0 1 2 3 4 REF
C_C1 1 REF 0.6653314084973pf
C_C2 1 2 21.165416503513pf
C_C3 1 3 0.0318414135474pf
C_C4 1 4 0.2869326325492pf
C_C5 2 REF 0.9478063855102pf
C_C6 2 3 0.1389337433072pf
C_C7 3 REF 1.0208104930433pf
C_C8 3 4 4.6085402173537pf
C_C9 4 REF 1.016358077775pf
L_L1 3 5 1.292252918494nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_1 1 2 3 4 REF
C_C1 1 REF 0.562835766516pf
C_C2 1 2 21.715956096964pf
C_C3 1 3 0.0281808865433pf
C_C4 1 4 0.2939241880193pf
C_C5 2 REF 0.8534799669818pf
C_C6 2 3 0.1419656645824pf
C_C7 3 REF 1.0214796998817pf
C_C8 3 4 3.3562353630401pf
C_C9 4 REF 1.0170589023207pf
L_L1 3 5 1.2932526618753nh
R_RL1 5 4 2.6126604553e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_2 1 2 3 4 REF
C_C1 1 REF 0.489694676875pf
C_C2 1 2 22.312686017557pf
C_C3 1 3 0.0245516246429pf
C_C4 1 4 0.3014581887188pf
C_C5 2 REF 0.7901600968021pf
C_C6 2 3 0.1447676880011pf
C_C7 3 REF 1.0223435149768pf
C_C8 3 4 2.4841393593414pf
C_C9 4 REF 1.0177255613385pf
L_L1 3 5 1.2940822892255nh
R_RL1 5 4 1.3102283447e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_3 1 2 3 4 REF
C_C1 1 REF 0.4303353540078pf
C_C2 1 2 23.12392169428pf
C_C3 1 3 0.0201813503615pf
C_C4 1 4 0.3115619859343pf
C_C5 2 REF 0.7449497057854pf
C_C6 2 3 0.1480336943721pf
C_C7 3 REF 1.023491175839pf
C_C8 3 4 1.7364354699275pf
C_C9 4 REF 1.0184805947486pf
L_L1 3 5 1.2949182182777nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_4 1 2 3 4 REF
C_C1 1 REF 0.3898205242194pf
C_C2 1 2 24.172928085194pf
C_C3 1 3 0.0152871119123pf
C_C4 1 4 0.3243793627975pf
C_C5 2 REF 0.7231660276846pf
C_C6 2 3 0.1517253608106pf
C_C7 3 REF 1.0247452453995pf
C_C8 3 4 1.1400914618893pf
C_C9 4 REF 1.0192515594042pf
L_L1 3 5 1.2957487127467nh
R_RL1 5 4 -1.591610817e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_5 1 2 3 4 REF
C_C1 1 REF 0.3699070569901pf
C_C2 1 2 25.319754848461pf
C_C3 1 3 0.0106788014925pf
C_C4 1 4 0.338089237365pf
C_C5 2 REF 0.7236911398061pf
C_C6 2 3 0.1553742469465pf
C_C7 3 REF 1.0257586243545pf
C_C8 3 4 0.7479921396452pf
C_C9 4 REF 1.019880960798pf
L_L1 3 5 1.2964143174949nh
R_RL1 5 4 -2.784823891e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_6 1 2 3 4 REF
C_C1 1 REF 0.3606794031621pf
C_C2 1 2 26.57581588543pf
C_C3 1 4 0.352808238777pf
C_C4 2 REF 0.7364542404202pf
C_C5 2 3 0.1591638114795pf
C_C6 3 REF 1.0265008601528pf
C_C7 3 4 0.4813469589742pf
C_C8 4 REF 1.020383715992pf
L_L1 3 5 1.296956271676nh
R_RL1 5 4 -3.700573279e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_7 1 2 3 4 REF
C_C1 1 REF 0.3553211769394pf
C_C2 1 2 28.212148921487pf
C_C3 1 4 0.3716249170389pf
C_C4 2 REF 0.7589457678114pf
C_C5 2 3 0.1640195430031pf
C_C6 3 REF 1.0270476175529pf
C_C7 3 4 0.2704534163228pf
C_C8 4 REF 1.0208349854462pf
L_L1 3 5 1.2974618886999nh
R_RL1 5 4 -4.420540927e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_8 1 2 3 4 REF
C_C1 1 REF 0.3497001444894pf
C_C2 1 2 30.31961012117pf
C_C3 1 4 0.3954603900635pf
C_C4 2 REF 0.7880035734179pf
C_C5 2 3 0.1703569929413pf
C_C6 3 REF 1.0273440195288pf
C_C7 3 4 0.1098045395643pf
C_C8 4 REF 1.0212143429347pf
L_L1 1 5 97.55914070064nh
R_RL1 5 2 7.0010704386023
L_L2 3 6 1.2979131992024nh
R_RL2 6 4 -4.855955467e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_9 1 2 3 4 REF
C_C1 1 REF 0.3391987789699pf
C_C2 1 2 33.10762998641pf
C_C3 1 4 0.4265357022205pf
C_C4 2 REF 0.8216891942067pf
C_C5 2 3 0.1790474602161pf
C_C6 3 REF 1.0273653005905pf
C_C7 4 REF 1.0215186960348pf
L_L1 1 5 61.972815456908nh
R_RL1 5 2 3.7348639170073
L_L2 3 6 1.2982547182947nh
R_RL2 6 4 -4.873574744e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_10 1 2 3 4 REF
C_C1 1 REF 0.3197021742046pf
C_C2 1 2 36.834229985308pf
C_C3 1 4 0.4676308747872pf
C_C4 2 REF 0.859298345087pf
C_C5 2 3 0.1911886097021pf
C_C6 3 REF 1.0271449002406pf
C_C7 4 REF 1.0217735513448pf
L_L1 1 5 38.781016709036nh
R_RL1 5 2 1.5652499542994
L_L2 3 6 1.2981078071429nh
R_RL2 6 4 -4.416253796e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_11 1 2 3 4 REF
C_C1 1 REF 0.2860441785174pf
C_C2 1 2 42.073972226506pf
C_C3 1 4 0.5249959971122pf
C_C4 2 REF 0.9037332815615pf
C_C5 2 3 0.2090213621829pf
C_C6 3 REF 1.0267147152237pf
C_C7 4 REF 1.0220324120113pf
L_L1 1 5 23.750088900212nh
R_RL1 5 2 0.4991993394233
L_L2 3 6 1.2978125144915nh
R_RL2 6 4 -3.460535299e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_12 1 2 3 4 REF
C_C1 1 REF 0.2319283705978pf
C_C2 1 2 49.729950602998pf
C_C3 1 4 0.6085132640359pf
C_C4 2 REF 0.9617447203592pf
C_C5 2 3 0.2359273810431pf
C_C6 3 REF 1.0261134099076pf
C_C7 4 REF 1.0223872969549pf
L_L1 1 5 14.099207224129nh
R_RL1 5 2 0.3204340867978
L_L2 3 6 1.2973572935428nh
R_RL2 6 4 -2.051368938e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_13 1 2 3 4 REF
C_C1 1 REF 0.1425433518846pf
C_C2 1 2 61.950181693881pf
C_C3 1 4 0.7416773777467pf
C_C4 2 REF 1.0498626075258pf
C_C5 2 3 0.2796978645416pf
C_C6 3 REF 1.0253287935447pf
C_C7 4 REF 1.0230206081753pf
R_R1 1 2 718.62425180108
L_L1 1 5 8.4212852121492nh
R_RL1 5 2 0.5912146429127
L_L2 3 6 1.2965905876013nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_14 1 2 3 4 REF
C_C1 1 2 83.253519574958pf
C_C2 1 4 0.9739109328469pf
C_C3 2 REF 1.2025191862893pf
C_C4 2 3 0.3564997422708pf
C_C5 3 REF 1.0242788592945pf
C_C6 4 REF 1.0243057265214pf
R_R1 1 2 330.73829100176
L_L1 1 5 4.3507183791439nh
R_RL1 5 2 -0.593421316159
L_L2 3 6 1.2953546554869nh
R_RL2 6 4 1.3459964975e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_15 1 2 3 4 REF
C_C1 1 2 127.72077757709pf
C_C2 1 4 1.45907728057pf
C_C3 2 REF 1.5239129005191pf
C_C4 2 3 0.5166893244206pf
C_C5 3 REF 1.022614184165pf
C_C6 4 REF 1.0273700161362pf
R_R1 1 2 155.61103338614
L_L1 1 5 1.8457805253067nh
R_RL1 5 2 -0.12640712751
L_L2 1 6 77.829233783205nh
R_RL2 6 3 -0.145059141745
L_L3 1 7 77.084596569661nh
R_RL3 7 4 -0.145498034722
L_L4 2 8 77.893554924296nh
R_RL4 8 3 0.0110141331909
L_L5 2 9 77.151594130982nh
R_RL5 9 4 0.0108027976961
L_L6 3 10 1.2928538434654nh
R_RL6 10 4 3.0842911372e-5
Kn_K1 L_L1 L_L2 0.0743163758364
Kn_K2 L_L1 L_L3 0.0745622721874
Kn_K3 L_L1 L_L4 -0.079649984516
Kn_K4 L_L1 L_L5 -0.080144202249
Kn_K5 L_L2 L_L3 0.9916658242153
Kn_K6 L_L2 L_L4 0.9881470951414
Kn_K7 L_L2 L_L5 0.9797403370524
Kn_K8 L_L2 L_L6 -0.101559282187
Kn_K9 L_L3 L_L4 0.9797785088493
Kn_K10 L_L3 L_L5 0.9880328596047
Kn_K11 L_L3 L_L6 0.02745767072
Kn_K12 L_L4 L_L5 0.9916727913352
Kn_K13 L_L4 L_L6 -0.101383990104
Kn_K14 L_L5 L_L6 0.0275797376338
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_16 1 2 3 4 REF
C_C1 1 2 266.34844567675pf
C_C2 1 4 2.9726799015257pf
C_C3 2 REF 2.5336087215238pf
C_C4 2 3 1.0145553664399pf
C_C5 3 REF 1.0184612095771pf
C_C6 4 REF 1.0378531962817pf
R_R1 1 2 54.568009728808
L_L1 1 5 76.580999280757nh
R_RL1 5 REF -3.896867866957
L_L2 1 6 0.6028207703648nh
R_RL2 6 2 -0.047847596071
L_L3 1 7 29.208654189008nh
R_RL3 7 3 -0.041726947633
L_L4 1 8 28.514525626233nh
R_RL4 8 4 -0.042293946239
L_L5 2 9 76.076159243066nh
R_RL5 9 REF -3.968786222271
L_L6 2 10 29.296494884611nh
R_RL6 10 3 0.0018961650838
L_L7 2 11 28.606091554678nh
R_RL7 11 4 0.0018279577726
L_L8 3 12 1.2854206811855nh
R_RL8 12 4 4.1373628576e-5
Kn_K1 L_L1 L_L2 0.0815121175454
Kn_K2 L_L1 L_L5 0.9960565930347
Kn_K3 L_L2 L_L3 0.061363560814
Kn_K4 L_L2 L_L4 0.061656697514
Kn_K5 L_L2 L_L5 1.0
Kn_K6 L_L2 L_L6 -0.082173785676
Kn_K7 L_L2 L_L7 -0.083608037896
Kn_K8 L_L3 L_L4 0.9778019906572
Kn_K9 L_L3 L_L5 1.0
Kn_K10 L_L3 L_L6 0.9896973938799
Kn_K11 L_L3 L_L7 0.9673279000863
Kn_K12 L_L3 L_L8 -0.161531750398
Kn_K13 L_L4 L_L5 1.0
Kn_K14 L_L4 L_L6 0.9674906389729
Kn_K15 L_L4 L_L7 0.9894478004064
Kn_K16 L_L4 L_L8 0.0488333341784
Kn_K17 L_L6 L_L7 0.9778698037119
Kn_K18 L_L6 L_L8 -0.16098588154
Kn_K19 L_L7 L_L8 0.0490622804919
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_17 1 2 3 4 REF
C_C1 1 2 1716.1770854675pf
C_C2 1 4 18.807437924491pf
C_C3 2 REF 13.118769827323pf
C_C4 2 3 6.2123846662624pf
C_C5 3 REF 0.9799854540964pf
C_C6 4 REF 1.1528276020139pf
R_R1 1 REF -416.5960812643
R_R2 1 2 3.5990648591507
R_R3 1 4 312.01446844931
R_R4 2 REF 407.57732325602
R_R5 2 4 -311.9840759337
L_L1 1 5 7.1457229271688nh
R_RL1 5 REF -0.038039502137
L_L2 1 6 0.0633042542564nh
R_RL2 6 2 -0.010531446784
L_L3 1 7 4.15094712372nh
R_RL3 7 3 -6.360661003e-3
L_L4 1 8 3.5260791126199nh
R_RL4 8 4 -7.375495192e-3
L_L5 2 9 7.1055832523344nh
R_RL5 9 REF -0.051515896898
L_L6 2 10 4.1653871774718nh
R_RL6 10 3 -3.96101012e-4
L_L7 2 11 3.5452353590422nh
R_RL7 11 4 -2.055709978e-4
L_L8 3 12 11.225250935171nh
R_RL8 12 REF -0.04626680075
L_L9 3 13 1.211596186818nh
R_RL9 13 4 1.0e-5
L_L10 4 14 10.593498937594nh
R_RL10 14 REF -0.047542363195
Kn_K1 L_L1 L_L2 0.0769016180075
Kn_K2 L_L1 L_L5 0.9955619522661
Kn_K3 L_L1 L_L8 0.7938698382148
Kn_K4 L_L1 L_L10 0.8168029965159
Kn_K5 L_L2 L_L3 0.0476618343185
Kn_K6 L_L2 L_L4 0.0467217004557
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.075699754359
Kn_K9 L_L2 L_L7 -0.08703160389
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.8449826565555
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9923894577969
Kn_K15 L_L3 L_L7 0.8363277806215
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.40944910011
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.8377569438636
Kn_K21 L_L4 L_L7 0.9910513753216
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.141932539601
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.793053329805
Kn_K26 L_L5 L_L10 0.8156895829312
Kn_K27 L_L6 L_L7 0.8456060433977
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.407689094848
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.1426863472492
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.2499196487545
Kn_K35 L_L8 L_L10 0.9448661086086
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_18 1 2 3 4 REF
C_C1 1 REF 19.464720807516pf
C_C2 1 3 9.3686220971744pf
C_C3 2 4 28.334878035764pf
C_C4 3 REF 1.0920141307847pf
C_C5 4 REF 0.8092492091118pf
R_R1 1 REF 434.88057912244
R_R2 1 2 -4.158941035495
R_R3 1 4 -351.1328869252
R_R4 2 REF -443.5222917544
R_R5 2 4 351.2017657879
L_L1 1 5 3.8773876399229nh
R_RL1 5 REF -7.715505695e-3
L_L2 1 6 0.4025782221444nh
R_RL2 6 2 0.6769122902031
L_L3 1 7 2.7056594940013nh
R_RL3 7 3 0.3131140935636
L_L4 1 8 2.1859222506959nh
R_RL4 8 4 0.4271902718217
L_L5 2 9 4.2539644837166nh
R_RL5 9 REF 0.7469537954258
L_L6 2 10 2.5879945727079nh
R_RL6 10 3 0.0692027461372
L_L7 2 11 1.987182105102nh
R_RL7 11 4 0.02856206505
L_L8 3 12 6.5847216997944nh
R_RL8 12 REF 0.3580944901841
L_L9 3 13 1.1510772027973nh
R_RL9 13 4 0.0088696675313
L_L10 4 14 6.0743206974975nh
R_RL10 14 REF 0.4810050976145
Kn_K1 L_L1 L_L2 0.0104057077799
Kn_K2 L_L1 L_L5 0.9515115542332
Kn_K3 L_L1 L_L8 0.767528781399
Kn_K4 L_L1 L_L10 0.8000865294189
Kn_K5 L_L2 L_L3 0.2492382313153
Kn_K6 L_L2 L_L4 0.3205029122079
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.139564803729
Kn_K9 L_L2 L_L7 -0.113949216748
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0595498672948
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7690352827864
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9241791175255
Kn_K16 L_L3 L_L7 0.6943936275915
Kn_K17 L_L3 L_L8 0.9188142260474
Kn_K18 L_L3 L_L9 -0.473379481435
Kn_K19 L_L3 L_L10 0.9577893404322
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6599150625813
Kn_K22 L_L4 L_L7 0.9045566491556
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1990048682214
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0387637185825
Kn_K27 L_L5 L_L7 0.0286891508844
Kn_K28 L_L5 L_L8 0.779461586157
Kn_K29 L_L5 L_L9 -0.020428870532
Kn_K30 L_L5 L_L10 0.8204416588702
Kn_K31 L_L6 L_L7 0.7549459558076
Kn_K32 L_L6 L_L8 0.9993323952876
Kn_K33 L_L6 L_L9 -0.50750794941
Kn_K34 L_L6 L_L10 1.0
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.181915885696
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.3017475234787
Kn_K39 L_L8 L_L10 0.9098105600342
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_19 1 2 3 4 REF
C_C1 1 2 368.06703664993pf
C_C2 1 4 4.0811830578962pf
C_C3 2 REF 3.2819525713982pf
C_C4 2 3 1.3801852331029pf
C_C5 3 REF 1.0144639269695pf
C_C6 4 REF 1.0441920337914pf
R_R1 1 2 -100.2938220332
L_L1 1 5 27.792452688667nh
R_RL1 5 REF -0.273195576007
L_L2 1 6 0.1391003196823nh
R_RL2 6 2 0.0030599441339
L_L3 1 7 12.087723783535nh
R_RL3 7 3 -6.147959616e-4
L_L4 1 8 11.411115800633nh
R_RL4 8 4 -5.176098895e-4
L_L5 2 9 27.528277032423nh
R_RL5 9 REF -0.275909192894
L_L6 2 10 12.174387221049nh
R_RL6 10 3 0.0013747479155
L_L7 2 11 11.505555105839nh
R_RL7 11 4 0.0012172885201
L_L8 3 12 39.615167699771nh
R_RL8 12 REF -0.273348329634
L_L9 3 13 1.266776296438nh
R_RL9 13 4 2.4061957368e-5
L_L10 4 14 38.929525197172nh
R_RL10 14 REF -0.273847983293
Kn_K1 L_L1 L_L2 0.1025521698059
Kn_K2 L_L1 L_L5 0.9974969395653
Kn_K3 L_L1 L_L8 0.8335989850497
Kn_K4 L_L1 L_L10 0.8407704528298
Kn_K5 L_L2 L_L3 0.0202195058605
Kn_K6 L_L2 L_L4 0.0177243561397
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.086743433581
Kn_K9 L_L2 L_L7 -0.092302344042
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9464843871421
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9942731106069
Kn_K15 L_L3 L_L7 0.9403687293557
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.248317005123
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9412150221787
Kn_K21 L_L4 L_L7 0.9939386088257
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0776125356083
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8322772635448
Kn_K26 L_L5 L_L10 0.8393177200375
Kn_K27 L_L6 L_L7 0.9468820173479
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.246441580548
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0783117439882
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1378041420016
Kn_K35 L_L8 L_L10 0.9839093928969
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_20 1 2 3 4 REF
C_C1 1 REF 0.0140805420628pf
C_C2 1 2 81.98604848441pf
C_C3 1 4 0.955215838094pf
C_C4 2 REF 1.1995926717441pf
C_C5 2 3 0.3539088344903pf
C_C6 3 REF 1.0217756107751pf
C_C7 4 REF 1.0211335139558pf
R_R1 1 2 579.56979473035
L_L1 1 5 0.5689073657308nh
R_RL1 5 2 0.004047565067
L_L2 1 6 51.186217598369nh
R_RL2 6 3 0.0015002337472
L_L3 1 7 50.378931207278nh
R_RL3 7 4 0.001437624927
L_L4 2 8 51.682040385927nh
R_RL4 8 3 0.0071411858407
L_L5 2 9 50.88220698259nh
R_RL5 9 4 0.0071061881084
L_L6 3 10 1.2860466591433nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L4 -0.098179079049
Kn_K2 L_L1 L_L5 -0.099640346692
Kn_K3 L_L2 L_L3 0.987368907467
Kn_K4 L_L2 L_L4 0.9944811058624
Kn_K5 L_L2 L_L5 0.9817577029242
Kn_K6 L_L2 L_L6 -0.129004081976
Kn_K7 L_L3 L_L4 0.9819781099013
Kn_K8 L_L3 L_L5 0.9943940615389
Kn_K9 L_L3 L_L6 0.0297396099474
Kn_K10 L_L4 L_L5 0.9874910901172
Kn_K11 L_L4 L_L6 -0.127926685877
Kn_K12 L_L5 L_L6 0.0300528363472
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_21 1 2 3 4 REF
C_C1 1 REF 0.3767779695141pf
C_C2 1 2 33.091704766553pf
C_C3 1 4 0.4208894000536pf
C_C4 2 REF 0.8508757957831pf
C_C5 2 3 0.1767215781609pf
C_C6 3 REF 1.0223336664083pf
C_C7 4 REF 1.0163871199367pf
R_R1 1 2 561.82301052839
L_L1 1 5 0.8732359571311nh
R_RL1 5 2 0.0100921576873
L_L2 3 6 1.2890378107183nh
R_RL2 6 4 -2.198400375e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_22 1 2 3 4 REF
C_C1 1 REF 0.4988862486109pf
C_C2 1 2 17.055994782812pf
C_C3 1 3 0.0675594120907pf
C_C4 1 4 0.2439664420025pf
C_C5 2 REF 0.7400722288198pf
C_C6 2 3 0.116165127176pf
C_C7 3 REF 1.0216599089475pf
C_C8 4 REF 1.0137964902182pf
L_L1 1 5 1.2454018801256nh
R_RL1 5 2 -4.981623653e-3
L_L2 3 6 1.2866454563915nh
R_RL2 6 4 -1.120678894e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_23 1 2 3 4 REF
C_C1 1 REF 0.551430256374pf
C_C2 1 2 10.658202323542pf
C_C3 1 3 0.0990776195988pf
C_C4 1 4 0.1708393815091pf
C_C5 2 REF 0.6999619683955pf
C_C6 2 3 0.088873996152pf
C_C7 2 4 0.0286709434218pf
C_C8 3 REF 1.0206813036505pf
C_C9 4 REF 1.011927111721pf
L_L1 1 5 1.6782394451502nh
R_RL1 5 2 0.036116172458
L_L2 3 6 1.2839834657314nh
R_RL2 6 4 1.5726544632e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_24 1 2 3 4 REF
C_C1 1 REF 0.5787509687993pf
C_C2 1 2 8.2308350442567pf
C_C3 1 3 0.120187740012pf
C_C4 1 4 0.1390752427174pf
C_C5 2 REF 0.6939566866451pf
C_C6 2 3 0.0730716627421pf
C_C7 2 4 0.0660217885514pf
C_C8 3 REF 1.0192125470477pf
C_C9 4 REF 1.0098493407748pf
L_L1 1 5 1.8402898653848nh
R_RL1 5 2 0.0100371529566
L_L2 3 6 1.2805436546274nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_25 1 2 3 4 REF
C_C1 1 REF 0.5931288914259pf
C_C2 1 2 7.7098348402298pf
C_C3 1 3 0.1428535070793pf
C_C4 1 4 0.1229340502288pf
C_C5 2 REF 0.7050384482884pf
C_C6 2 3 0.057139718962pf
C_C7 2 4 0.0892281151129pf
C_C8 3 REF 1.0172691967804pf
C_C9 4 REF 1.0073421593004pf
L_L1 1 5 1.8711002979826nh
R_RL1 5 2 -3.623567551e-4
L_L2 3 6 1.2763218745034nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_26 1 2 3 4 REF
C_C1 1 REF 0.5965777725572pf
C_C2 1 2 8.256306124677pf
C_C3 1 3 0.1626989926836pf
C_C4 1 4 0.1166720351541pf
C_C5 2 REF 0.7216705041805pf
C_C6 2 3 0.042693199932pf
C_C7 2 4 0.1011310122529pf
C_C8 3 REF 1.0156734933437pf
C_C9 4 REF 1.0053336880862pf
L_L1 1 5 1.7666156865353nh
R_RL1 5 2 3.1630884427e-5
L_L2 3 6 1.274510834727nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param04_26

